US07781428B2
A solution of 2-(benzyloxy)-4-fluorobenzonitrile (4.8 g, 21 mmol), in ethanol (80 mL) was treated with hydrazine monohydrate (2.6 g, 2.5 mL, 53 mmol) and heated to reflux for 3 days. The mixture was cooled to room temperature and concentrated. Water was added and the residue was extracted three times with ethyl acetate, dried over magnesium sulfate, filtered and condensed to give 2-(benzyloxy)-4-hydrazinylbenzonitrile (3.8 g, 15.8 mmol, 75% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.27 (s, 2H), 5.16 (s, 2H), 6.36 (dd, J=8.73, 1.75 Hz, 1H), 6.61 (d, J=1.61 Hz, 1H), 7.30 (d, J=8.59 Hz, 1H), 7.32-7.51 (m, 5H), 7.78 (s, 1H). ES-MS m/z 240 (M+H)

reactant | 2-(benzyloxy)-4-fluorobenzonitrile | 21 mmol, 4.8 g | C(C1=CC=CC=C1)OC1=C(C#N)C=CC(=C1)F | C14H10FNO
reactant | hydrazine monohydrate | 53 mmol, 2.5 mL, 2.6 g | O.NN
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2-(benzyloxy)-4-hydrazinylbenzonitrile | 15.8 mmol, 3.8 g, 75% yield | C(C1=CC=CC=C1)OC1=C(C#N)C=CC(=C1)NN | C14H13N3O
